US07202364B2
To a solution of 7-trifluoromethyl-2-aminonaphthalene (550 mg, 2.60 mmol) and triethylamine (1.09 mL, 7.81 mmol) in dichloromethane (10 mL) at room temperature is added acetyl chloride (0.222 mL, 3.13 mmol) dropwise. After stirring at room temperature for 1.5 hours, the mixture is partitioned between dichloromethane and water. The organic layer is washed with 0.1 M citric acid solution, brine, dried (MgSO4) and concentrated by rotary evaporator to give 7-trifluoromethyl-2-acetamidonaphthalene as a light yellow solid.

reactant | 7-trifluoromethyl-2-aminonaphthalene | 2.60 mmol, 550 mg | FC(C1=CC=C2C=CC(=CC2=C1)N)(F)F | C11H8F3N
reactant | triethylamine | 7.81 mmol, 1.09 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.13 mmol, 0.222 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 7-trifluoromethyl-2-acetamidonaphthalene | FC(C1=CC=C2C=CC(=CC2=C1)NC(C)=O)(F)F | C13H10F3NO
